US05817678
Step C: Preparation of 1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]-3(S)-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine
1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylic acid (0.172 g, 0.527 mmol) was suspended in DMF (5 mL) and treated with EDC (0.106 g, 0.553 mmol), HOBT (0.068 g, 0.501 mmol), followed by N-methylmorpholine to adjust the pH to 7, and 4-(4-Cyanobenzyl) histamine dihydrochloride (0.158 g, 0.527 mmol). stirring at ambient temperature for 18 hr under N2, the reaction mixture was concentrated, partitioned between CH2Cl2 and H2O, the organic phase washed with aq satd NaHCO3 soln, brine, and dried (Na2SO4). Filtration and concentration to dryness gave the title compound after purification by RP HPLC on a Waters Prep Pak eluting with 0.1%TFA/H2O: 0.1%TFA/CH3CN, 95:5 to 5:95. FAB MS (M+1) 535.

reactant | 1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]piperidine-3(S)-carboxylic acid | 0.527 mmol, 0.172 g | N1=C(C=CC=C1)C(CN1C[C@H](CCC1)C(=O)O)(O)C1=CC=CC=C1 | C19H22N2O3
reactant | EDC | 0.553 mmol, 0.106 g
reactant | HOBT | 0.501 mmol, 0.068 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | 4-(4-Cyanobenzyl) histamine dihydrochloride | 0.527 mmol, 0.158 g | Cl.Cl.C(#N)C1=CC=C(CC2(CCN)C=NC=N2)C=C1
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 1-[2-(2-Pyridyl)-2-phenyl-2-hydroxyethyl]-3(S)-[N-(1-(4-cyanobenzyl)-1H-imidazol-5-ylethyl)carbamoyl]piperidine | N1=C(C=CC=C1)C(CN1C[C@H](CCC1)C(NCCC1=CN=CN1CC1=CC=C(C=C1)C#N)=O)(O)C1=CC=CC=C1 | C32H34N6O2
